US04929639
To a solution of pyridine (1.64 ml) in dichloromethane (45 ml) was added chromium trioxide (1.07 g) at 10° C. and the solution was stirred at room temperature for 1 hour. The solution was cooled in an ice bath and was added (2R,4R,5S)-4-hydroxymethyl-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane (500 mg) in dichloromethane (3 ml). After being stirred at room temperature for 2 hours, the solution was diluted with ether (100 ml) and passed through a silica gel column. The eluate was evaporated in vacuo and the residue was chromatographed on a silica gel column (20 g) with a mixture of n-hexane and ethyl acetate (1:1) as an eluent to give (2R,4R,5S)-4-formyl-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane (336 mg) as a colorless oil.

reactant | pyridine | 1.64 ml | N1=CC=CC=C1 | C5H5N
reactant | (2R,4R,5S)-4-hydroxymethyl-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane | 500 mg | OC[C@@H]1O[C@@H](OC[C@@H]1C\C=C/CCCC(=O)OC)C | C14H24O5
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ether | 100 ml | CCOCC | C4H10O
catalyst | chromium trioxide | 1.07 g | [O-2].[O-2].[O-2].[Cr+6]
product | (2R,4R,5S)-4-formyl-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane | 336 mg | C(=O)[C@@H]1O[C@@H](OC[C@@H]1C\C=C/CCCC(=O)OC)C | C14H22O5
